US04661505
Ethyl 5-(4-acetyl-3-hydroxy-2-propylphenoxy)pentanoate
Eleven grams of 5-(4-acetyl-3-hydroxy-2-propylphenoxy)pentanoic acid were dissolved in 200 ml. of absolute ethanol. With stirring, 1 ml. of sulfuric acid was added and the reaction was stirred overnight. The solvent was evaporated in vacuo and the residue partitioned between ethyl acetate and dilute potassium carbonate solution. The ethyl acetate was separated, dried, and evaporated to give 9.9 g. of the title product, M+ =322.

reactant | 5-(4-acetyl-3-hydroxy-2-propylphenoxy)pentanoic acid | Eleven grams | C(C)(=O)C1=C(C(=C(OCCCCC(=O)O)C=C1)CCC)O | C16H22O5
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | C(C)O | C2H6O
product | Ethyl 5-(4-acetyl-3-hydroxy-2-propylphenoxy)pentanoate | C(C)(=O)C1=C(C(=C(OCCCCC(=O)OCC)C=C1)CCC)O | C18H26O5
